US07868206B2
[1-(2,4-difluoro-phenylcarbamoyl)-3-trifluoromethylsulfanyl-propyl]-carbamic acid tert-butyl ester (starting material for WY-244)
N-Boc-trifluoromethionine (212 mg, 0.851 mmol) was dissolved in dry THF in the presence of N2, and the temperature was adjusted to −78° C. Subsequently, N-methylmorpholine (0.11 ml, 1.000 mmol) was added thereto, and the mixture was stirred. Two minutes later, isobutyl chloroformate (0.13 ml, 0.999 mmol) was added thereto, and the mixture was stirred for 2 minutes. Finally, 2,4-difluoroaniline (0.10 ml, 0.982 mmol) was added thereto. TLC was performed to confirm disappearance of the starting compound, and the solid matters were filtered, followed by distillation of THF under reduced pressure. The residue was purified by column chromatography (Hex:AcOEt=80:20), thereby the product (191 mg, 54%) was obtained.

reactant | N-Boc-trifluoromethionine | 0.851 mmol, 212 mg | C(=O)(OC(C)(C)C)N[C@@H](CCSC(F)(F)F)C(=O)O | C10H16F3NO4S
reactant | N-methylmorpholine | 1.000 mmol, 0.11 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.999 mmol, 0.13 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2,4-difluoroaniline | 0.982 mmol, 0.10 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | THF | C1CCOC1 | C4H8O
solvent | N2 | N#N | N2
product | [1-(2,4-difluoro-phenylcarbamoyl)-3-trifluoromethylsulfanyl-propyl]-carbamic acid tert-butyl ester | 191 mg, 54% | C(C)(C)(C)OC(NC(CCSC(F)(F)F)C(NC1=C(C=C(C=C1)F)F)=O)=O | C16H19F5N2O3S
